US07488740B2
5. 7-(3-Chloropyridin-2-yl)-N-(5-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridin-4-amine
Heat a mixture of 5-chloro-2-(3-chloropyridin-2-yl)-[1,8]naphthyridine (82.5 mg, 0.3 mmol) and 2-amino-5-trifluoromethylpyridine (97.2 mg, 0.6 mmol) at 180° C. for 2.0 hours. Cool the mixture, dilute with EtOAc/1.0 N aq. NaOH (5.0 mL each), and separate the organic layer, extract the aq. layer with EtOAc (2×5 mL) and dry the combined organic layers with MgSO4. Filter the dried extract and concentrate under vacuum to afford crude product. Purify by column chromatography using EtOAc to 2% MeOH/EtOAc as eluents to afford title compound as a yellow solid. 1H NMR (400 MHZ, DMSO-D6) δ 10.2 (s, 1H), 9.07 (d, 1H, J=1.9 Hz), 8.93 (d, 1H, J=1.2 Hz), 8.68 (m, 2H), 8.47 (s, 1H), 8.08 (m, 2H), 7.96 (d, 1H, J=2.2 Hz), 7.56 (dd, 1H), 7.46 (d, 1H, J=2.2 Hz). MS=402.22 (M+H).

reactant | 5-chloro-2-(3-chloropyridin-2-yl)-[1,8]naphthyridine | 0.3 mmol, 82.5 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=CC=C1Cl | C13H7Cl2N3
reactant | 2-amino-5-trifluoromethylpyridine | 0.6 mmol, 97.2 mg | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
solvent | EtOAc | 1.0 N, 5.0 mL | CCOC(=O)C | C4H8O2
product | 7-(3-Chloropyridin-2-yl)-N-(5-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridin-4-amine | ClC=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F | C19H11ClF3N5
